US05773448
5-Bromo-3,3-dimethyl-1-(2-hydroxyethyl)-1 3-dihydro-2H-indol-2-one:
Prepared from 5-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one and 2-(2-chloroethoxy)tetrahydro-2H-pyran.

reactant | 5-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | BrC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10BrNO
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 5-Bromo-3,3-dimethyl-1-(2-hydroxyethyl)-1 3-dihydro-2H-indol-2-one | BrC=1C=C2C(C(N(C2=CC1)CCO)=O)(C)C | C12H14BrNO2
